US08067362B2
Hexadecanedioic acid mono-tert-butyl ester (0.4 g, 1.17 mmol) was dissolved in NMP (6 mL). N-Ethyl-N-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.223 g, 0.1.17 mmol) and 1-hydroxy-7-azabenzotriazole (0.159 g, 1.17 mmol) was added and the mixture was stirred at 50° C. for 1 hour and then allowed to cool to room temperature. Diisopropylethylamin (0.6 mL, 3.5 mmol) was added followed by methyl 4-aminobenzoate (0.353 g, 2.34 mmol). The mixture was stirred overnight under nitrogen at room temperature. The mixture was poured into saturated aqueous NaCl (50 mL), washed with diethylether (3×100 mL between ethyl acetate. The organic phases were collected, dried (Na2SO4) and solvent removed in vacuo. The crude material was purified on silica using ethyl acetate/heptane (50:50), to give pure 4-(15-tert-Butoxycarbonylpentadecanoylamino)benzoic acid methyl ester (235 mg, 42%)

reactant | Hexadecanedioic acid mono-tert-butyl ester | 1.17 mmol, 0.4 g | C(C)(C)(C)OC(CCCCCCCCCCCCCCC(=O)O)=O | C20H38O4
reactant | 1-hydroxy-7-azabenzotriazole | 1.17 mmol, 0.159 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | Diisopropylethylamin | 3.5 mmol, 0.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl 4-aminobenzoate | 2.34 mmol, 0.353 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | NaCl | 50 mL | [Na+].[Cl-]
solvent | NMP | 6 mL | CN1CCCC1=O | C5H9NO
product | 4-(15-tert-Butoxycarbonylpentadecanoylamino)benzoic acid methyl ester | 235 mg, 42% | COC(C1=CC=C(C=C1)NC(CCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)=O | C28H45NO5
